US07186749B2
Step 1: 1-Benzyl-2-(6-methoxy-2-naphthyl)-5-phenyl-1H-pyrrole.
In a similar manner as described in step 4 of Example 1, the title compound was prepared from 1-(6-methoxy-2-naphthyl)-4-phenylbutane-1,4-dione (0.300 g, 0.942 mmol), prepared in step 3 of Example 1, and benzyl amine (0.121 g, 1.13 mmol). The crude material was dissolved in methylene chloride and filtered through silica gel (95 g, 200–300 mesh). The solvent was removed under reduced pressure to give 1-benzyl-2-(6-methoxy-2-naphthyl)-5-phenyl-1H-pyrrole as a white solid (0.32 g, 87%), mp 152–153° C. Elemental Analysis for C28H23NO Calc'd: C, 86.34; H, 5.95; N, 3.60. Found: C, 85.46; H, 6.06; N, 3.58.

reactant | 1-(6-methoxy-2-naphthyl)-4-phenylbutane-1,4-dione | 0.942 mmol, 0.300 g | COC=1C=C2C=CC(=CC2=CC1)C(CCC(=O)C1=CC=CC=C1)=O | C21H18O3
reactant | benzyl amine | 1.13 mmol, 0.121 g | C(C1=CC=CC=C1)N | C7H9N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-benzyl-2-(6-methoxy-2-naphthyl)-5-phenyl-1H-pyrrole | 0.32 g, 87% | C(C1=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)OC | C28H23NO
